US05059345
Into a 1000 ml volume three-neck flask charged were 150 ml of iso-amyl alcohol and 2.06 g of 4-nonyloxyphenyl benzoic acid, followed by heating under stirring, to dissolve the latter in the former. Under reflux, a solution of 8 g of metallic sodium in 70 ml of iso-amyl alcohol prepared by heating was added to the flask. The reaction was continued for an additional 20 minutes under reflux, and then additional 8 g of metallic sodium was added to the flask. After the lapse of 30 minutes, a solution prepared by dissolving 12 g of metallic sodium in 60 ml of iso-amyl alcohol was added to the flask, and after the lapse of 40 minutes 25 ml of iso-amyl alcohol was added to the flask. The reaction mixture was further refluxed for an hour, and then cooled to the room temperature. 500 ml of water was added to the cooled reaction mixture, and then the reaction mixture was allowed to stand for one night. The reaction mixture was subjected to extraction using 200 ml of chloroform to obtain 0.9 g of trans-4-(4-nonyloxyphenyl)cyclohexylcarboxylic acid.

reactant | 4-nonyloxyphenyl benzoic acid | 2.06 g | C(CCCCCCCC)OC1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1 | C22H28O3
reactant | sodium | 8 g | [Na] | Na
reactant | sodium | 8 g | [Na] | Na
reactant | sodium | 12 g | [Na] | Na
reactant | water | 500 ml | O | H2O
reactant | iso-amyl alcohol | 70 ml | C(CC(C)C)O | C5H12O
reactant | iso-amyl alcohol | 60 ml | C(CC(C)C)O | C5H12O
reactant | iso-amyl alcohol | 25 ml | C(CC(C)C)O | C5H12O
reactant | iso-amyl alcohol | 150 ml | C(CC(C)C)O | C5H12O
product | trans-4-(4-nonyloxyphenyl)cyclohexylcarboxylic acid | 0.9 g | C(CCCCCCCC)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(=O)O | C22H34O3
